US04975092
(a) Preparation of N-(2-Dimethylaminoethyl)-4-nitroaniline
To a stirred solution of 4-fluoronitrobenzene (7 g, 50 mmol), N,N-dimethylethylenediamine (5.2 g, 60 mmol) and potassium carbonate (7 g, 50 mmol) in 25 ml of dimethysulfoxide was added 0.2 g of tris(3,6-dioxaheptyl) amine(TDA-1). The heterogenous mixture was heated at 90° for 2 h. After cooling to room temperature, 100 g of crushed ice was added to precipitate out the yellow product in 90% yield (9.4 g, 45 mmol).

reactant | 4-fluoronitrobenzene | 50 mmol, 7 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | N,N-dimethylethylenediamine | 60 mmol, 5.2 g | CN(CCN)C | C4H12N2
reactant | potassium carbonate | 50 mmol, 7 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethysulfoxide | 25 ml | CS(=O)C | C2H6OS
product | N-(2-Dimethylaminoethyl)-4-nitroaniline | 90% yield | CN(CCNC1=CC=C(C=C1)[N+](=O)[O-])C | C10H15N3O2
